US04520030
2-Dipropylamino-5-formylamino-6-hydroxy-1,2,3,4-tetrahydronaphthalene hydrobromide.
0.42 ml of acetic anhydride is added all at once to 2 ml of 98% formic acid, kept at 0° C., and the mixture is left at 0° C. for 15 minutes. Then, still using an ice-bath, 1.34 g of 2-dipropylamino-5-amino-6-hydroxy-1,2,3,4-tetrahydronaphthalene hydrobromide are introduced therein with a spatula and the whole is stirred for one hour at 0° C. After 50 ml of diethyl ether have been added and the solid has been filtered off, the latter is recrystallised from a 50/50 methanol/ethyl acetate mixture. This gives 1 g of the final product melting at 213° C. (with decomposition).

reactant | acetic anhydride | 0.42 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | formic acid | 2 ml | C(=O)O | CH2O2
reactant | 2-dipropylamino-5-amino-6-hydroxy-1,2,3,4-tetrahydronaphthalene hydrobromide | 1.34 g | Br.C(CC)N(C1CC2=CC=C(C(=C2CC1)N)O)CCC
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 2-Dipropylamino-5-formylamino-6-hydroxy-1,2,3,4-tetrahydronaphthalene hydrobromide | Br.C(CC)N(C1CC2=CC=C(C(=C2CC1)NC=O)O)CCC | InChI=1S/C17H26N2O2.BrH/c1-3-9-19(10-4-2)14-6-7-15-13(11-14)5-8-16(21)17(15)18-12-20;/h5,8,12,14,21H,3-4,6-7,9-11H2,1-2H3,(H,18,20);1H
